US06117871
To a refluxing solution of benzoyl isothiocyanate (1.6 g) in dry acetone (20 mL) is added dropwise a solution of 6-amino-5-methylquinoxaline (1.2 g) in dry acetone (50 mL) over 30 minutes. The mixture is refluxed an additional two hours, cooled to room temperature, and rotary evaporated to a residue. This material is suspended in 10% NaOH solution (50 mL) forming a mixture which is heated at 90° C. for 30 minutes, then cooled to room temperature and adjusted to pH=8 by adding concentrated HCl. The mixture is then cooled in an ice bath and suction filtered. The collected solid thiourea intermediate is dried on a vacuum line (16 h, 0.5 torr), suspended in bromobenzene (50 mL) and heated at reflux for six hours to effect conversion to the isothiocyanate intermediate which is not isolated. The solution is cooled, then added dropwise to a solution of ethylene diamine (5.0 mL) in toluene (10 mL). The resulting mixture is stirred for 16 hours and filtered. The solids are washed with toluene (20 mL) and dried under vacuum to yield 6-(N'-aminoethylthioureido)-5-methylquinoxaline.

reactant | benzoyl isothiocyanate | 1.6 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | 6-amino-5-methylquinoxaline | 1.2 g | NC=1C(=C2N=CC=NC2=CC1)C | C9H9N3
reactant | HCl | Cl | ClH
reactant | ethylene diamine | 5.0 mL | C(CN)N | C2H8N2
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(N'-aminoethylthioureido)-5-methylquinoxaline | NCCNC(NC=1C(=C2N=CC=NC2=CC1)C)=S | C12H15N5S
